US08030489B2
To a mixture of 4-methoxybenzyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-(tert-butoxycarbonyl)-L-ornithyl}amino)cyclopentanecarboxylate (2.5 g) and methanol (25 ml) was added p-toluene sulfonic acid hydrate (1.2 g) at room temperature, followed by stirring at 40° C. for 24 hours. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and water were added to the residue. Sodium hydrogen carbonate was added thereto under ice-cooling to adjust the pH to about 8, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate (50 ml), and the organic layer was combined and extracted with a 10% aqueous citric acid solution. To the aqueous layer was added sodium hydrogen carbonate under ice-cooling to adjust the pH to about 8, followed by extraction with ethyl acetate and washing with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 4-methoxybenzyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate (1.6 g).

reactant | 4-methoxybenzyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-(tert-butoxycarbonyl)-L-ornithyl}amino)cyclopentanecarboxylate | 2.5 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)OCC1=CC=C(C=C1)OC | C32H43N3O8
reactant | p-toluene sulfonic acid hydrate | 1.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 25 ml | CO | CH4O
product | 4-methoxybenzyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate | 1.6 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](N)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)OCC1=CC=C(C=C1)OC | C27H35N3O6
